US04374843
A mixture of 400 ml absolute ethanol and 60 ml toluene was heated to reflux and 20 ml of azeotrope was removed via a Dean Stark trap. To the ethanol-toluene solution was added 33.0 g (0.2 mol) of 3-bromo-4-hydroxy-3-buten-2-one and reflux was continued for 2 hours during which period three aliquots of 20 ml of ethanol-toluene were removed via the trap. The solution was concentrated in vacuo to give 38.6 g (100%) of 3-bromo-4-ethoxy-3-buten-2-one as a mobile oil. nmr (DMSOd-6) (δ): 8.21 (s, 1H); 4.23 (q, 2H); 2.33 (s, 3H); 1.31 (s, 3H).

reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | 3-bromo-4-hydroxy-3-buten-2-one | 0.2 mol, 33.0 g | BrC(C(C)=O)=CO | C4H5BrO2
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 3-bromo-4-ethoxy-3-buten-2-one | 38.6 g, 100% | BrC(C(C)=O)=COCC | C6H9BrO2
